US08703758B2
B) tert-butyl [(1S)-1-methyl-2-(pyridin-4-yloxy)ethyl]carbamate
To a suspension of sodium hydride (oil, 60%, 1.61 g) in DMF (50 mL) was added 4-hydroxypyridine (3.83 g) under ice-cooling. The reaction mixture was stirred for 30 min under ice-cooling, and (2S)-2-[(tert-butoxycarbonyl)amino]propyl 4-methylbenzenesulfonate (13.3 g) was added thereto in small portions under ice-cooling. The reaction mixture was stirred for 2 hr under ice-cooling, and at 60° C. for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.10 g).

reactant | sodium hydride | 1.61 g | [H-].[Na+]
reactant | 4-hydroxypyridine | 3.83 g | OC1=CC=NC=C1 | C5H5NO
reactant | (2S)-2-[(tert-butoxycarbonyl)amino]propyl 4-methylbenzenesulfonate | 13.3 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](C)NC(=O)OC(C)(C)C | C15H23NO5S
reactant | Water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl [(1S)-1-methyl-2-(pyridin-4-yloxy)ethyl]carbamate | 2.10 g | C[C@@H](COC1=CC=NC=C1)NC(OC(C)(C)C)=O | C13H20N2O3
